US08685974B2
A mixture of 2-acetyl-5-chlorothiophene (156 mmol) and N,N-dimethylacetamide dimethyl acetal (171 mmol) in 200 mL N,N-dimethylacetamide was heated to 90° C. for 4 h and then allowed to cool to room temperature. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in 200 mL absolute ethanol. Hydrazine monohydrate (234 mmol) was added and the mixture was stirred at room temperature for 24 h. The solvent was removed under vacuum. Petroleum ether was added and the precipitate formed was filtered then washed to afford 22 g (71% yield) 3-(5-chloro-2-thienyl)-5-methyl-1H-pyrazole.

reactant | 2-acetyl-5-chlorothiophene | 156 mmol | C(C)(=O)C=1SC(=CC1)Cl | C6H5ClOS
reactant | N,N-dimethylacetamide dimethyl acetal | 171 mmol | COC(C)(N(C)C)OC | C6H15NO2
reactant | Hydrazine monohydrate | 234 mmol | O.NN
solvent | N,N-dimethylacetamide | 200 mL | CN(C(C)=O)C | C4H9NO
product | 3-(5-chloro-2-thienyl)-5-methyl-1H-pyrazole | 22 g, 71% yield | ClC1=CC=C(S1)C1=NNC(=C1)C | C8H7ClN2S
